US08980888B2
<Step 3> Synthesis of 2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-7-carboxylic acid
A 1 N sodium hydroxide aqueous solution (23 ml) was added to a methanol (23 ml) solution of the methyl 2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-7-carboxylate (6.3 g) obtained in (Example 2.7) <Step 2>, and the obtained mixture was then stirred at 40° C. for 1 hour. Thereafter, 1 N hydrochloric acid (23 ml) was added to the reaction solution, and the generated solid was then collected by filtration, followed by washing with water (20 ml). The obtained solid was subjected to azeotropy with toluene, and was then dried under reduced pressure, so as to obtain the title compound (3.5 g) in the form of a beige solid.

reactant | sodium hydroxide | 1 N, 23 ml | [OH-].[Na+]
reactant | methyl 2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-7-carboxylate | 6.3 g | BrC=1N=C2N(CCC(C2)C(=O)OC)C1 | C9H11BrN2O2
reactant | hydrochloric acid | 1 N, 23 ml | Cl | ClH
solvent | methanol | 23 ml | CO | CH4O
product | 2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-7-carboxylic acid | 3.5 g | BrC=1N=C2N(CCC(C2)C(=O)O)C1 | C8H9BrN2O2
